US05262390
Step E: 1-(1-Methylethyl)-3-(2-fluoro-4-methoxyphenyl)imidazolidin-2,4-dione
A solution of 17.02 g (0.0630 mole) of N-(2-fluoro-4-methoxyphenyl-N'-ethoxycarbonylmethylurea in 50 mL of N,N-dimethylformamide was added dropwise to a suspension of 2.65 g (0.0662 mole) of sodium hydride in 30 mL of N,N-dimethylformamide during a 20 minute period. Gas evolution and a slight rise in temperature occurred during the addition. This mixture was stirred at room temperature for 45 minutes, by which time it had become a homogeneous solution. To this solution was added dropwise, over a period of 15 minutes, a solution of 21.42 g (0.126 mole) of 2-iodopropane in 10 mL of N,N-dimethylformamide. The temperature rose to 38° C. during the addition period. This reaction mixture was stirred for approximately 65 hours, then poured over ice and extracted with diethyl ether. The extract was washed twice with water, dried over anhydrous magnesium sulfate, and filtered. The filtrate was evaporated under reduced pressure, leaving an orange oil as a residue. This oil was placed on a silica gel column and eluted sequentially with 97.5/2.5 and 95/5 mixtures of methylene chloride and ethyl acetate. After the product-containing fractions were combined and the solvents evaporated under reduced pressure, 5.85 g of 1-(1-methylethyl-3-(2-fluoro-4-methoxyphenyl)imidazolidin-2,4-dione was isolated as an orange solid, m.p. 88°-90° C.

reactant | 2-fluoro-4-methoxyphenyl-N'-ethoxycarbonylmethylurea | FC1=C(C=CC(=C1)OC)NC(=O)NCC(=O)OCC | C12H15FN2O4
reactant | sodium hydride | 0.0662 mole, 2.65 g | [H-].[Na+]
reactant | 2-iodopropane | 0.126 mole, 21.42 g | IC(C)C | C3H7I
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 1-(1-Methylethyl)-3-(2-fluoro-4-methoxyphenyl)imidazolidin-2,4-dione | CC(C)N1C(N(C(C1)=O)C1=C(C=C(C=C1)OC)F)=O | C13H15FN2O3
